US04946921
Synthesis of p-methoxyphenyldimethylchlorosilane
The following were placed in a dry four-neck flask equipped with a stirrer, reflux condenser, addition funnel, and thermometer under a nitrogen blanket: 23.3 g (1.0 mol) powdered magnesium, 129.1 g (1.0 mol) dimethyldichlorosilane, and 200 mL tetrahydrofuran. A small quantity of iodine was added in order to activate the magnesium. Then, while cooling the flask to below 10 degrees Centigrade, a mixture of 142.6 g (1.0 mol) p-chloroanisole and 300 mL tetrahydrofuran was dripped in from the addition funnel with stirring over 5 hours. The reaction mixture was aged by heating under reflux for 2 hours, the precipitate was removed by suction filtration, and the filtrate was distilled to give 122 g (0.61 mol) product. The yield was 61%. The properties of this product are reported below.

reactant | magnesium | [Mg] | Mg
reactant | dimethyldichlorosilane | 1.0 mol, 129.1 g | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | iodine | II | I2
reactant | p-chloroanisole | 1.0 mol, 142.6 g | ClC1=CC=C(C=C1)OC | C7H7ClO
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | p-methoxyphenyldimethylchlorosilane | 0.61 mol, 122 g, yield was 61% | COC1=CC=C(C=C1)[Si](Cl)(C)C | C9H13ClOSi
